### ISSUE TITLE
bv_decide - kernel deterministic timeout + ofBool normalization

### ISSUE THREAD

**Issue by tobiasgrosser** [leanprover/lean4#6043]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The following test case fails with 'kernel deterministic timeout)
import Lean.Elab.Tactic.BVDecide

```lean
/-
(kernel) deterministic timeout
-/
theorem extracted_1 (x : BitVec 32) :
  BitVec.ofBool (x != 51#32) &&& BitVec.ofBool (x != 50#32) =
    BitVec.ofBool (4294967294#32 > x + 4294967244#32) := by
  -- simp [BitVec.ofBool_and_ofBool, BitVec.ofBool_eq_iff_eq]
  bv_decide
```

### Steps to Reproduce

1. Copy test case into lean
2. Observe error

**Expected behavior:** bv_decide should solve this goal quickly. In case it fails, it should not be a kernel timeout

**Actual behavior:** A kernel timeout

### Versions

Lean 4.15.0-nightly-2024-11-11
Target: arm64-apple-darwin23.6.0 macOS

### Additional Information

This bug goes away if I simplify with the relevant `ofBool_*` theorems. Adding them to `bv_normalize` does not help, though.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by hargoniX** [comment]
The error is correct but the diagnosis around `BitVec.ofBool` is wrong. `bv_decide` reduces `ofBool` to `ite` and the bug also exists if the `ofBool`/`ite` gets hidden behind variables + equality statements. So this is not just something we can fix by adding more simp lemmas surrounding `ofBool` or `ite`. It's a more fundamental issue.

**Comment by tobiasgrosser** [comment]
> The error is correct but the diagnosis around `BitVec.ofBool` is wrong. `bv_decide` reduces `ofBool` to `ite` and the bug also exists if the `ofBool`/`ite` gets hidden behind variables + equality statements. So this is not just something we can fix by adding more simp lemmas surrounding `ofBool` or `ite`. It's a more fundamental issue.

AFAIU there are two issues in this test case. One is the fundamental issue with 'deterministic timeout'. The second is that bv_normalize should normalize this better.

In particular, we currently get:

```lean
theorem extracted_1 (x : BitVec 32) :
  BitVec.ofBool (x != 51#32) &&& BitVec.ofBool (x != 50#32) =
    BitVec.ofBool (4294967294#32 > x + 4294967244#32) := by
  
  /-
  case h
  x : BitVec 32
  a✝ : (!((if (!x == 51#32) = true then 1#1 else 0#1) &&& if (!x == 50#32) = true then 1#1 else 0#1) ==
        if (x + 4294967244#32).ult 4294967294#32 = true then 1#1 else 0#1) =
    true
  ⊢ False
  -/
  bv_normalize
```

but should get
```lean
theorem extracted_1 (x : BitVec 32) :
  BitVec.ofBool (x != 51#32) &&& BitVec.ofBool (x != 50#32) =
    BitVec.ofBool (4294967294#32 > x + 4294967244#32) := by
  simp [BitVec.ofBool_and_ofBool, BitVec.ofBool_eq_iff_eq]
  /-
  case h
  x : BitVec 32
  a✝ : (!(!x == 51#32 && !x == 50#32) == (x + 4294967244#32).ult 4294967294#32) = true
  ⊢ False
  -/
  bv_normalize
  bv_decide
```

This improved `bv_normalize` would hide the 'deterministic timeout' bug, but is generally desirable.

**Comment by hargoniX** [comment]
There is almost no difference between the bitblasted versions of these two, they get solved in basically the same time. The way to rewrite this would be with rewrite rules on the `ite` form so we actually handle not only `BitVec.ofBool` but all `ite` problems of this form. But even then you can trivially retrigger the itmeout by hiding the `BitVec.ofBool` behind variables so the actual issue at hand here is not solved by rewrites.
